US05672712
4-Cyanobenzoyl chloride (12.5 g) was added to a solution of ammonium thiocyanate (5.8 g) in acetone (125 ml) at room temperature, followed by heating under reflux for 15 minutes. The reaction mixture was ice-cooled, and after removal of the insoluble substance by filtration, the filtrate was evaporated under reduced pressure. To the resulting residue were added toluene (125 ml) and 2-phenylethylamine (10.4 g) successively, followed by stirring for 2 hours. The reaction mixture was concentrated under reduced pressure, and the resulting crude crystals were washed with ethyl acetate to give 1-(4-cyanobenzoyl)-3-(2-phenylethyl)thiourea (14.1 g).

reactant | 4-Cyanobenzoyl chloride | 12.5 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | ammonium thiocyanate | 5.8 g | [S-]C#N.[NH4+]
reactant | acetone | 125 ml | CC(=O)C | C3H6O
product | 1-(4-cyanobenzoyl)-3-(2-phenylethyl)thiourea | 14.1 g | C(#N)C1=CC=C(C(=O)NC(=S)NCCC2=CC=CC=C2)C=C1 | C17H15N3OS
